US07084139B2
2-Chloro-4-ethenylphenol
To a slurry of methyltriphenylphosphonium bromide (0.23 g) in dry THF (5 ml) under nitrogen at −78° C., n-butyl lithium (1.6M in hexanes, 0.37 ml) was added dropwise over 2 min. The mixture was allowed to warm to 0° C., stirred for 20 min, cooled to −78° C. and a solution of 3-chloro-4-[[(1,1-dimethylethyl)dimethylsilyl]oxy]benzaldehyde* (0.134 g) in dry THF (5 ml) added. The reaction mixture was allowed to reach room temperature overnight and quenched with saturated aqueous ammonium chloride. The resultant mixture was extracted with diethyl ether and the combined organic extracts were concentrated under reduced pressure. The residue was purified using SPE (silica, eluting with cyclohexane, followed by 5% to 25% ethyl acetate:cyclohexane) to give the title compound (0.049 g) as an oil. *Boukouvalas, J; Maltais, F; Lachance, N., Tetrahedron Lett. (1994), 35(43), 7897–900.

reactant | n-butyl lithium | 1.6M, 0.37 ml | C(CCC)[Li]
reactant | 3-chloro-4-[[(1,1-dimethylethyl)dimethylsilyl]oxy]benzaldehyde | ClC=1C=C(C=O)C=CC1O[Si](C)(C)C(C)(C)C | C13H19ClO2Si
catalyst | methyltriphenylphosphonium bromide | 0.23 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-Chloro-4-ethenylphenol | 0.049 g | ClC1=C(C=CC(=C1)C=C)O | C8H7ClO
